US08071592B2
(f) 6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3-yl trifluoromethanesulfonate
A solution of 6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3(4H)-one (1 g, 3.5 mmol) in DMF (100 mL) under argon was cooled to 0° C. and treated with sodium hydride (60% in mineral oil, 180 mg, 4.2 mmol). The reaction was stirred at rt for 0.5 h before addition of N-phenyl-bis(trifluoromethanesulfonimide) (1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide) (1.54 g, 4.2 mmol). The reaction was stirred at rt for 1 h, then water was added and the solvents were evaporated at 35° C. The residue was treated with water and extracted with DCM. The combined organic phases were dried, evaporated and subjected to column chromatography on silica gel eluting with DCM to afford 1.54 g of the title compound (100%).

reactant | 6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3(4H)-one | 3.5 mmol, 1 g | COC1=CC=C(C=C1)COC=1C=CC2=C(NC(C=N2)=O)N1 | C15H13N3O3
reactant | sodium hydride | 4.2 mmol, 180 mg | [H-].[Na+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 4.2 mmol, 1.54 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3-yl trifluoromethanesulfonate | 1.54 g, 100% | FC(S(=O)(=O)OC1=CN=C2C(=N1)N=C(C=C2)OCC2=CC=C(C=C2)OC)(F)F | C16H12F3N3O5S
